US08022192B2
To a solution of 1-benzyloxycarbonyl-4-benzyl-5-isopropyl-1,2-dihydro-3H-pyrazol-3-one (0.16 g) in acetonitrile (5 mL) were added potassium carbonate (0.0757 g) and 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide (0.278 g) successively under stirring at room temperature. In addition, the mixture was stirred at 50° C. for 4 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/6) to give 1-benzyloxycarbonyl-4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole (0.228 g).

reactant | 1-benzyloxycarbonyl-4-benzyl-5-isopropyl-1,2-dihydro-3H-pyrazol-3-one | 0.16 g | C(C1=CC=CC=C1)OC(=O)N1NC(C(=C1C(C)C)CC1=CC=CC=C1)=O | C21H22N2O3
reactant | potassium carbonate | 0.0757 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide | 0.278 g | C(C(C)(C)C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-benzyloxycarbonyl-4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole | 0.228 g | C(C1=CC=CC=C1)OC(=O)N1N=C(C(=C1C(C)C)CC1=CC=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C47H64N2O12
